US07312014B2
In 600 mL of tetrahydrofran, 24.0 g of diphenylsulfoxide was dissolved under nitrogen atmosphere, then the solution was charged with 31.5 g of chlorotrimethylsilane. To this solution, a Grignard reagent prepared with 60 g of 2-bromomesitylene and 4.70 g of magnesium according to the conventional method was added drop-wise with ice-cooling, followed by reacting at the same temperature for 3 hours. After completion of the reaction, 480 mL of a 24% aqueous hydrobromic acid solution and further 600 mL of toluene was poured drop-wise to said reaction solution and stirred. Then, the organic layer separated was extracted twice with 120 mL of a 12% aqueous hydrobromic acid solution and combined together with the water layer, which was further extracted three times with 480 mL of methylene chloride. The organic layer obtained was dried by anhydrous magnesium sulfate, followed by concentrating under reduced pressure, to obtain 22.0 g of diphenyl-2,4,6-trimethylphenylsulfonium bromide as a white crystal. The measurement results of melting point and NMR of the crystal obtained are shown bellow.

reactant | chlorotrimethylsilane | 31.5 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-bromomesitylene | 60 g | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | magnesium | 4.70 g | [Mg] | Mg
reactant | hydrobromic acid | Br | BrH
reactant | diphenylsulfoxide | 24.0 g | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | diphenyl-2,4,6-trimethylphenylsulfonium bromide | 22.0 g | [Br-].C1(=CC=CC=C1)[S+](C1=C(C=C(C=C1C)C)C)C1=CC=CC=C1 | InChI=1S/C21H21S.BrH/c1-16-14-17(2)21(18(3)15-16)22(19-10-6-4-7-11-19)20-12-8-5-9-13-20;/h4-15H,1-3H3;1H/q+1;/p-1
